US04157438
One mol of sodium silicate pentahydrate, one mol of methyl allyl chloride, one mol of tetraethylenepentamine and 300% by weight of water, percentage based on weight of the reactants, are mixed; 1.5 mols of dihalohydrin are slowly added while agitating and keeping the temperature below 70° C. for 10 to 60 minutes thereby producing a water soluble resinous product and sodium silicate. This aqueous solution may be diluted with water and used as an adhesive and to improve wet strangth. The paper is cured by heating the paper to 80° to 120° C. for 10 to 60 minutes.

reactant | sodium silicate pentahydrate | One mol | O.O.O.O.O.[Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | methyl allyl chloride | one mol | CC=CCCl | C4H7Cl
reactant | tetraethylenepentamine | one mol | NCCNCCNCCNCCN | C8H23N5
solvent | water | O | H2O
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
